US07737166B2
1-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}piperidine-4-carboxylic acid (#71)
Ethyl 1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}piperidine-4-carboxylate (I-162) (0.26 g, 0.52 mmol) was dissolved in tetrahydrofuran (10 ml), then 1 N sodium hydroxide (0.60 ml, 0.60 mmol) was added. After stirring at room temperature for 19 hours, 1 N sodium hydroxide (0.40 ml, 0.40 mmol) was further added, followed by stirring at room temperature for 24 hours. 1 N Hydrochloric acid (1.00 ml, 1.00 mmol) was added, then the solvent was evaporated away under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol:water=8:3:0.5), then ethanol and a small amount of ether were added, and the insoluble matter was collected by filtration to obtain a colorless solid (0.18 g, 71%).

reactant | Ethyl 1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}piperidine-4-carboxylate | 0.52 mmol, 0.26 g | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CCC(CC2)C(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C29H35N5O3
reactant | sodium hydroxide | 0.60 mmol, 1 N, 0.60 ml | [OH-].[Na+]
reactant | sodium hydroxide | 0.40 mmol, 1 N, 0.40 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1.00 mmol, 1 N, 1.00 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}piperidine-4-carboxylic acid | 0.18 g, 71% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CCC(CC2)C(=O)O)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C27H31N5O3
